* Simple Amplifier
V1 VDD 0 3.3 AC 0
M1 MIRROR MIRROR 0 0 BSS123
M2 BASE MIRROR 0 0 BSS123
M3 DIF- IN+ BASE BASE BSS123
M4 DIF+ IN- BASE BASE BSS123
I1 VDD MIRROR 1m
V2 IN+ 0 1.65 AC 1
M6 DIF+ DIF- VDD VDD BSS84
M5 DIF- DIF- VDD VDD BSS84
M7 OUT IN2 VDD VDD BSS84
R5 VDD IN- 1Meg
R6 IN- 0 1Meg
C3 FEEDBACK IN- 1u
C2 OUT 0 10n
R1 VDD IN2 1Meg
R2 IN2 0 1Meg
C1 IN2 DIF+ 1u
R3 OUT FEEDBACK 200k
R4 FEEDBACK 0 100k
.lib C:\Users\maxtech\AppData\Local\LTspice\lib\cmp\standard.mos
.end
